* D:\SpaceTeam\STS1_BATTERY_TEST_SETUP\sims\discharge.asc
V1 N004 0 3.2
V3 N002 0 PULSE(0 3 0 0 0 {To} 1u)
M2 N001 N003 0 0 Si7868DP
R3 N001 N004 .002
R4 N003 N002 680
C3 N003 0 2µ
R1 N003 0 10k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\rolan\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m
.step param To 10n 900n 100n
.backanno
.end
